US07358371B2
Ethyl 1-(2,4-dichlorophenyl)-4-methyl-5-oxo-4,5-dihydro-1H-pyrazole-3-carboxylate
2,4-dichlorophenylhydrazine hydrochloride(12.6 g) is dissolved in 100 ml of toluene and this solution is placed under nitrogen; after stirring, 10 g of diethyl 2-methyl-3-oxosuccinate are added and the mixture is then heated and 5 ml of TFA are added at 55° C. The mixture is left at the reflux of the solvent for 4 and a half hours, with stirring. The mixture is allowed to return to ambient temperature and is then heated to 75° C. and the reaction medium is hydrolyzed with 30 ml of water. The mixture is separated by settling out, the aqueous phase is discarded and the organic phase is then evaporated in order to eliminate the residual TFA. The organic phase is taken up with 10 ml of toluene and the expected product then crystallizes, m=10.2 g.

reactant | 2,4-dichlorophenylhydrazine hydrochloride | 12.6 g | Cl.ClC1=C(C=CC(=C1)Cl)NN
reactant | diethyl 2-methyl-3-oxosuccinate | 10 g | CC(C(=O)OCC)C(C(=O)OCC)=O | C9H14O5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 30 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-(2,4-dichlorophenyl)-4-methyl-5-oxo-4,5-dihydro-1H-pyrazole-3-carboxylate | ClC1=C(C=CC(=C1)Cl)N1N=C(C(C1=O)C)C(=O)OCC | C13H12Cl2N2O3
